US07935725B2
Step A: (S,S)-5-{2-[4-(Benzothiazol-2-yloxy)-phenoxy]-ethyl}-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester.
To a stirred solution of 2-[4-(2-bromo-ethoxy)-phenoxy]-benzothiazole (1.5 g, 4.3 mmol) and (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1.0 g, 5.1 mmol) in CH3CN (20 mL) at rt was added diisopropylethylamine ((i-Pr)2NEt) (900 μL, 5.1 mmol). The resulting suspension was stirred at rt for 4 h and then heated for 65 h at 60° C. The solution was cooled to rt and then partitioned between CH2Cl2 (200 mL) and satd. aq. NaHCO3 (80 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 5% CH3OH in CH2Cl2) afforded the title compound as a yellow oil (1.8 g, 92%). MS (ESI): mass calcd. for C25H29N3O4S, 467.19; m/z found, 468.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.75 (d, J=8.0 Hz, 1H), 7.68-7.66 (m, 1H), 7.42-7.38 (m, 1H), 7.31-7.25 (m, 3H), 6.99-6.95 (m, 2H), 4.40 (br s, 0.5H), 4.27 (br s, 0.5H), 4.13-4.03 (m, 2H), 3.66-3.51 (m, 2H), 3.26-2.97 (m, 4H), 2.78 (d, J=9.5 Hz, 0.5H), 2.63 (d, J=9.7 Hz, 0.5H), 1.92-1.85 (m, 1H), 1.79-1.70 (m, 1H), 1.49 (s, 9H).

reactant | 2-[4-(2-bromo-ethoxy)-phenoxy]-benzothiazole | 4.3 mmol, 1.5 g | BrCCOC1=CC=C(OC=2SC3=C(N2)C=CC=C3)C=C1 | C15H12BrNO2S
reactant | (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 5.1 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | diisopropylethylamine | 5.1 mmol, 900 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | (S,S)-5-{2-[4-(Benzothiazol-2-yloxy)-phenoxy]-ethyl}-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 1.8 g, 92% | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)CCOC2=CC=C(C=C2)OC=2SC1=C(N2)C=CC=C1 | C25H29N3O4S
